US09328114B2
4-Methyl-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-amine [S12-4].
6-Iodo-4-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine [S12-5]. To solution of S12-4 (2.1 g, 12.8 mmol) in 50 mL of acetic acid cooled in ice bath was added NaNO2 (1.77 g, 26.9 mmol) slowly in portions. The resulting mixture was stirred at 0° C. for 10 min and was added KI (4.24 g, 38.4 mmol) in portions. The reaction mixture was stirred at 0° C. for 30 min, allowed to warm up to rt and stirred for 2 h. The resulting mixture was quenched with 100 mL of water, extracted with ethyl acetate (3×150 mL). The organic layer was combined, treated with Na2S2O3, washed with brine, dried over MgSO4 and purified by flash chromatography to give S12-5 (1.86 g, 53%) as a yellow solid. 1H NMR (CDCl3, 500 MHz) δ 6.64 (d, J=8.3 Hz, 1H), 6.56 (s, 1H), 6.48 (d, J=8.4 Hz, 1H), 4.25 (m, 2H), 3.24 (m, 2H), 2.85 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 138.1, 126.6, 120.5, 117.6, 111.9, 83.7, 64.8, 48.7, 36.5.

reactant | 6-Iodo-4-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | IC1=CC2=C(OCCN2C)C=C1 | C9H10INO
reactant | NaNO2 | 26.9 mmol, 1.77 g | N(=O)[O-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-Methyl-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-amine | CN1C2=C(OCC1)C=CC(=C2)N | C9H12N2O
